US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-1,3-thiazol-2-ylbenzamide
Potassium carbonate (0.14 g, 0.98 mmol) was added to a mixture of 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-1,3-thiazol-2-ylbenzamide (200 mg, 0.49 mmol) and 5-(azetidin-1-ylcarbonyl)-2-chloropyridine (96 mg, 0.49 mmol) in acetonitrile (5.0 mL) and the stirred mixture heated at 160° C. in a ‘Biotage initiator Microwave’ for 4 hours. The mixture was allowed to reach RT and pressure and was partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate layer was separated, washed with water (5×50 mL), brine (50 mL), dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 60-100% ethyl acetate in isohexane, to give the desired compound. (0.15 g).

reactant | Potassium carbonate | 0.98 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-1,3-thiazol-2-ylbenzamide | 0.49 mmol, 200 mg | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)O)(C)C | C19H28N2O4SSi
reactant | 5-(azetidin-1-ylcarbonyl)-2-chloropyridine | 0.49 mmol, 96 mg | N1(CCC1)C(=O)C=1C=CC(=NC1)Cl | C9H9ClN2O
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-1,3-thiazol-2-ylbenzamide | N1(CCC1)C(=O)C=1C=CC(=NC1)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C28H36N4O5SSi
